US07247741B2
A solution of 3-(2-bromo-acetylamino)-benzoic acid methyl ester (1.80 g, 6.61 mmol), 4 isopropyl-3-methylphenol (1.00 g, 6.61 mmol) and potassium carbonate (1.00 g, 7.23 mmol) in 2-butanone (15 mL) was heated to reflux under inert atmosphere with stirring for 12 h. After cooling, the mixture was partitioned between water and ethyl acetate (50 mL each). The aqueous phase was extracted with ethyl acetate, and the extracts were washed with brine, combined, dried over magnesium sulfate, filtered and evaporated. The residual material was separated on a column (silica gel) with 20:80 ethyl acetate-hexane, and the eluant containing the product was evaporated to afford pure methyl 3-[2-(4-isopropyl-3-methyl-phenoxy)acetylamino]benzoate, as a glassy solid (1.64 g, 4.80 mmol 73%). TLC RF 0.41 (30:70 ethyl acetate-hexane). 1H NMR (300 MHz, CDCl3): δ 8.39 (1H, br s), 8.05 (1H, t, J=1.8 Hz), 7.99 (1H, ddd, J=8.0, 2.2, 1.1 Hz), 7.80 (1H, dt, J=7.7, 1.3 Hz), 7.42 (1H, t, J=7.9 Hz), 7.18 (1H, d, J=8.8 Hz), 6.81–6.77 (2H, m), 4.57 (2H, s), 3.90 (3H, s), 3.07 (1H, heptet, J=7.0 Hz), 2.32 (3H, s), 1.18 (6H, d, J=7.0 Hz). MS (ESI): m/e 344 (3), 343 (22), 342 (100).

reactant | 3-(2-bromo-acetylamino)-benzoic acid methyl ester | 6.61 mmol, 1.80 g | COC(C1=CC(=CC=C1)NC(CBr)=O)=O | C10H10BrNO3
reactant | isopropyl-3-methylphenol | 6.61 mmol, 1.00 g | C(C)(C)C1=C(C=CC=C1C)O | C10H14O
reactant | potassium carbonate | 7.23 mmol, 1.00 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 15 mL | CC(CC)=O | C4H8O
product | methyl 3-[2-(4-isopropyl-3-methyl-phenoxy)acetylamino]benzoate | C(C)(C)C1=C(C=C(OCC(=O)NC=2C=C(C(=O)OC)C=CC2)C=C1)C | C20H23NO4
